2195-02-04 05:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2195-2-3**] 02:30 PM
 INVASIVE VENTILATION - START [**2195-2-3**] 02:45 PM
 ARTERIAL LINE - START [**2195-2-3**] 02:48 PM
 MULTI LUMEN - START [**2195-2-3**] 03:22 PM
 TRANSTHORACIC ECHO - At [**2195-2-3**] 03:47 PM
 EKG - At [**2195-2-3**] 10:50 PM
   Patient unable to provide history: Sedated
   Allergies:
   Sulfonamides
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg pain;
   Ace Inhibitors
   Cough;
   Aspirin
   epistaxis;
   Amlodipine
   peripheral [**Last Name (un) 6946**]
   Cozaar (Oral) (Losartan Potassium)
   hyperkalemia;
   Kayexalate (Oral) (Sodium Polystyrene Sulfonate)
   Shortness of br
   Last dose of Antibiotics:
   Cefipime - [**2195-2-3**] 06:05 PM
   Vancomycin - [**2195-2-3**] 11:03 PM
   Metronidazole - [**2195-2-4**] 12:16 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2195-2-3**] 02:30 PM
   Midazolam (Versed) - [**2195-2-3**] 04:30 PM
   Fentanyl - [**2195-2-3**] 04:30 PM
   Heparin Sodium - [**2195-2-3**] 09:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-2-4**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 60 (53 - 71) bpm
   BP: 135/51(74) {94/43(57) - 151/61(88)} mmHg
   RR: 26 (9 - 26) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 82.7 kg (admission): 84.5 kg
   Height: 68 Inch
    CVP: 11 (11 - 20)mmHg
   Total In:
                                                                  2,660 mL
                                                                  1,632 mL
   PO:
   TF:
                                                                     37 mL
   IVF:
                                                                  2,560 mL
                                                                  1,595 mL
   Blood products:
   Total out:
                                                                    656 mL
                                                                  1,372 mL
   Urine:
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  2,004 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 49.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/29/187/12/-10
   Ve: 13.4 L/min
   PaO2 / FiO2: 468
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   9.1 g/dL
   185 mg/dL
   4.2 mg/dL
   12 mEq/L
   4.2 mEq/L
   108 mg/dL
   95 mEq/L
   132 mEq/L
   29.4 %
   19.2 K/uL
        [image002.jpg]
                             [**2195-2-3**]  01:54 PM
                             [**2195-2-3**]  02:50 PM
                             [**2195-2-3**]  03:49 PM
                             [**2195-2-3**]  09:45 PM
                             [**2195-2-3**]  11:11 PM
                             [**2195-2-3**]  11:18 PM
                             [**2195-2-4**]  03:07 AM
   WBC
   17.9
   19.2
   Hct
   31.1
   29.4
   Plt
   319
   266
   Cr
   5.7
   4.2
   TropT
   0.23
   0.21
   TCO2
   13
   11
   12
   15
   Glucose
   181
   265
   217
   198
   185
   Other labs: PT / PTT / INR:15.0/150.0/1.3, CK / CKMB /
   Troponin-T:91//0.21, ALT / AST:15/29, Alk Phos / T Bili:202/0.3,
   Differential-Neuts:93.9 %, Lymph:3.2 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:2.1 mmol/L, Albumin:3.7 g/dL, Ca++:6.6 mg/dL, Mg++:2.7 mg/dL,
   PO4:5.3 mg/dL
   Imaging: [**2-3**] TTE: Marked right ventricular dilation with moderate
   global hypokinesis. Evidence of right ventricular pressure overload.
   Preserved left ventricular systolic function. Moderate tricuspid
   regurgitation. At least moderate pulmonary hypertension which is likely
   underestimated.
   Compared with the prior study (images reviewed) of [**2194-4-10**], the right
   ventricle is now markedly dilated and moderately hypokinetic.
   [**2-3**] CXR: In comparison with the study of [**1-29**], there has been
   placement of an orogastric tube that extends well into the stomach.
   Large central catheter from the right IJ region extends to the region
   of the right atrium. Left IJ catheter extends to the mid to lower
   portion of the SVC.
     There is some increased opacification at the left base that could
   reflect some
   atelectasis or possibly even small effusion, though this could also
   represent an artifact.
   [**2-3**] CTA (Preliminary read): No acute PE. Large right ventricle. Small
   simple right pleural effusion with associated atelectasis. Patchy
   opacity in the left lung base concerning for infection. Fatty liver
   with perihepatic simple fluid. Large axillary lymph nodes bilaterally.
   [**2-3**] Head CT (Preliminary): No acute intracranial hemorrhage.
   Microbiology: [**2-3**] Mini-BAL: GRAM STAIN: 2+   (1-5 per 1000X FIELD):
   POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN.
   [**2-3**] BCx: Pending
   Assessment and Plan
   51yo F with h/o diastolic CHF, chronic renal insufficiency, HTN, DM,
   autonomic and peripheral neuropathy admitted with increasing LE edema,
   shortness of breath and weight gain consistent with acute on chronic
   exacerbation of renal failure and diastolic CHF; with initial diuresis
   to Lasix gtt who then became anuric on [**2-2**]; on [**2-3**] was noted to
   become increasingly obtunded with new onset hypopnea, hypotension and
   worsened metabolic acidosis / uremia prompted transfer to the MICU.
   # Hypotension: Has been weaned off vasopressors since midnight, with
   MAPs now consistently in 60-70s. Hypotension and bradycardia responded
   well to glucagon overnight. In regards to etiologies, TTE revealed
   significant RV compromise, although LV function apparently intact.
   Troponins elevated around baseline level, but CK/MB flat. Random
   cortisol elevated, which argues against adrenal insufficiency.
   Afebrile, but has leukocytosis, possibly consistent with septic
   etiology-infectious workup unrevealing thus far. Also has taken
   Labetolol and Morphine, with potentially decreased renal clearance
   - Monitor, now slightly hypertensive (will try to take fluid off today
   with CVVHD)
   # Altered mental status: Patient intubated for obtundation. Currently
   on fentanyl, midazolam. Possible etiologies for initial decrease in
   alertness include uremia, accumulation of narcotics.
   - Continue intubation for airway protection
   - C/w CVVH for uremia/acidosis
   - Can not rule out pneumonia and ground glass opacities on CT
   suggestive of possible atypicals. Continue Vanc/Flagyl/Cefepime and
   start Levofloxacin for atypicals
   # Acute on Chronic Kidney Injury/Metabolic acidosis: Patient has known
   Stage IV CKD, [**1-13**] DM/Htn. HD catheter placed yesterday, prior to
   decompensation. pH improving from 7.08 -> 7.31. Lactate slowly
   uptrending.
   - C/w CVVH for metabolic abnormalities, acid/base status
 and volume
   removal
   - C/w prismasate dialysate fluid, with elevated HCO3 content
   - Monitor lactates with blood gases
   - F/u renal recommendations
   # Leukocytosis:Infectious workup unrevealing. Abrupt rise may be
   related to neupogen therapy.
   - Can not rule out pneumonia and ground glass opacities on CT
   suggestive of possible atypicals. Start Levofloxacin for atypicals
    - F/u outstanding culture data
    - C/w empiric ABx tx with Vanc / Cefepime / Flagyl, as well as empiric
   PO Vancomycin for C.diff
   # Sinus Bradycardia: Could be related to Atenolol given 65% clearance
   from kidneys and was taking 800 mg po TID until the day of transfer.
   Responded quite well to glucagon 5mg IV X1 yesterday
   - Continue to monitor
   # Congestive heart failure: Volume overloaded on exam (LE edema, JVD,
   audible crackles). Has known elevated PA systolic HTN secondary to
   diastolic dysfunction proven on R heart cath 6/[**2193**]. Most recently may
   simply be [**1-13**] to worsened renal failure. TTE with significant LV
   dysfunction, as above. Cardiac enzymes worsening although EKG this
   morning not significant changed from baseline
   - Guaiac stools and transfuse one pRBC for cardiac disease and Hct<30
   - Cycle cardiac enzymes until they peak and then continue heparin gtt
   48 hours beyond
   - Already on heparin gtt for ?PE on CTA (prelim read still)
   - Continue aspirin and will start statin today
   - Likely still has beta blockade on board from Atenolol, after glucagon
   treatment. Will consider short acting, low dose beta blocker tomorrow
   - Will add LFTs to AM labs for possible initiation of statin
   - Cardiology still following patient, as she was transferred from [**Hospital Ward Name 383**]
   3 service. Will touch base with them this morning, including possible
   cardiac catheterization
   - Consider Swan Ganz catheterization for pulmonary hypertension and
   cardiac pressures
   - Fluid managment by CVVH
   # Chronic pruritic rash: Developed in the past half a year per recent
   discharge summary and thought to be due to drug reaction.
    - Clarify with primary team whether Dermatology was consulted
    - Sarna PRN once more alert
   # Diabetes: At home regimen on Glargine 22u at bedtime.  This was
   continued inpatient.  Now will be NPO s/p intubation.
    - Will increase humalog sliding scale and see what patient requires
   for tailored glargine dose tomorrow
    - OG/NG tube, start Glucose / Renal TF
   # Depression.  Unclear level of control.
   - Hold Fluoxetine while NPO
   - Restart in AM via OG
   # Fractured R humerus: Seen by Ortho inpatient.  NWB.
   FEN:  Hypervolemic / Hyperkalemic, Low bicarbonate / NPO for
   obtundation
   ACCESS: Left IJ, R subclavian HD line [**2-3**], right radial, PIV x2
   PROPHYLAXIS:  SubQ Hep , will switch to IV H2 blocker (home Famotidine)
   CODE: FULL (confirmed with husband, ICU consent signed)
   COMM: With pt and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 11689**] Renal (Full) - [**2195-2-4**] 01:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2195-2-3**] 02:30 PM
   22 Gauge - [**2195-2-3**] 02:30 PM
   Arterial Line - [**2195-2-3**] 02:48 PM
   20 Gauge - [**2195-2-3**] 02:49 PM
   Multi Lumen - [**2195-2-3**] 03:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-02-05 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Became acidotic, hypercarbic on PSV so switched back to MMV, then
   Assist Control
   - Switched from Fent/Versed to Propofol --> comfortable but
   hypertensive SBP190s requiring Lopressor
   - TF stopped at MN w/ plans for repeat SBT, wean etc in AM
   Patient unable to provide history: Sedated
   Allergies:
   Sulfonamides
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg pain;
   Ace Inhibitors
   Cough;
   Aspirin
   epistaxis;
   Amlodipine
   peripheral [**Last Name (un) 6946**]
   Cozaar (Oral) (Losartan Potassium)
   hyperkalemia;
   Kayexalate (Oral) (Sodium Polystyrene Sulfonate)
   Shortness of br
   Last dose of Antibiotics:
   Vancomycin - [**2195-2-4**] 08:36 PM
   Metronidazole - [**2195-2-5**] 12:11 AM
   Cefipime - [**2195-2-5**] 05:21 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Propofol - 25 mcg/Kg/min
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-2-4**] 11:51 PM
   Metoprolol - [**2195-2-5**] 01:12 AM
   Hydralazine - [**2195-2-5**] 01:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2195-2-5**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 69 (61 - 72) bpm
   BP: 176/67(103) {119/54(74) - 194/82(126)} mmHg
   RR: 20 (8 - 27) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 76.5 kg (admission): 84.5 kg
   Height: 68 Inch
    CVP: 10 (9 - 20)mmHg
   Total In:
                                                                  9,003 mL
                                                                  2,621 mL
   PO:
   TF:
                                                                    512 mL
   IVF:
                                                                  8,208 mL
                                                                  2,621 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                 13,721 mL
                                                                  4,604 mL
   Urine:
   NG:
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,718 mL
                                                                 -1,983 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (1 - 513) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 13
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   Compliance: 53.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/36/187/22/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 468
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), most prominent at USB's
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   291 K/uL
   9.9 g/dL
   159 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   27 mg/dL
   97 mEq/L
   133 mEq/L
   31.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2195-2-4**]  05:32 AM
                             [**2195-2-4**]  10:01 AM
                             [**2195-2-4**]  10:07 AM
                             [**2195-2-4**]  03:00 PM
                             [**2195-2-4**]  03:13 PM
                             [**2195-2-4**]  03:22 PM
                             [**2195-2-4**]  09:32 PM
                             [**2195-2-5**]  12:19 AM
                             [**2195-2-5**]  03:38 AM
                             [**2195-2-5**]  04:04 AM
   WBC
   17.2
   14.3
   Hct
   27.0
   29.6
   31.0
   Plt
   265
   291
   Cr
   3.2
   2.0
   1.4
   TropT
   0.26
   0.28
   0.27
   TCO2
   20
   24
   22
   23
   24
   Glucose
   173
   153
   139
   142
   [**Telephone/Fax (2) 11716**]59
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:199/16/0.27, ALT / AST:13/15, Alk Phos / T Bili:182/0.3,
   Differential-Neuts:93.9 %, Lymph:3.2 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.7 g/dL, LDH:210 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Imaging: [**2-4**] CXR:  In comparison with the study of [**2-3**], the tip of
   the endotracheal tube lies approximately 6 cm above the carina. No
   change in the other monitoring and support devices. Retrocardiac
   opacification again is
   consistent with atelectasis, though the possibility of pneumonia will
   have to
   be considered in the appropriate clinical situation.
   [**2-5**] CXR: Pending
   Microbiology: [**2-3**] BAL: 2+  POLYMORPHONUCLEAR LEUKOCYTES. NO
   MICROORGANISMS SEEN.
   [**2-3**] BCx: Pending
   [**2-4**] C Diff: Negative
   Assessment and Plan
   51yo F with h/o diastolic CHF, chronic renal insufficiency, HTN, DM,
   autonomic and peripheral neuropathy admitted with increasing LE edema,
   shortness of breath and weight gain consistent with acute on chronic
   exacerbation of renal failure and diastolic CHF; with initial diuresis
   to Lasix gtt who then became anuric on [**2-2**]; on [**2-3**] was noted to
   become increasingly obtunded with new onset hypopnea, hypotension and
   worsened metabolic acidosis / uremia prompted transfer to the MICU.
   # Hypertension: Now with systolic pressures in 170-190s. Off pressors x
   24 hrs. Labetalol toxicity from prolonged clearance in setting of renal
   failure a possible exacerbating factor of initial hypotension, now
   requiring boluses of anti-hypertensives (lopressor, hydralazine). 4+
   liters taken off with CVVH yesterday. Known significant RV compromise,
   although LV function apparently intact.
   - Continue with fluid removal by CVVH
   - Monitor
   # Mechanical ventilation: Hypercarbic last evening, switched back to
   A/C with improvement in blood gases. CXR with possible airspace
   consolidation
   - SBT this morning
   - Can not rule out pneumonia and ground glass opacities on CT
   suggestive of possible atypicals. Continue Vanc/Flagyl/Cefepime and
   start Levofloxacin for atypicals
   - F/u final CT read
   # Altered mental status: Sedated with propofol, but responding
   appropriately to verbal stimuli. Uremia significantly improved on CVVH.
   Patient intubated for obtundation.
   - Continue intubation for airway protection
   - C/w CVVH for uremia/acidosis
   # Acute on Chronic Kidney Injury/Metabolic acidosis: Patient has known
   Stage IV CKD, [**1-13**] DM/Htn. Lactate stable.
   - C/w CVVH for metabolic abnormalities, acid/base status
 and volume
   removal
   - Monitor lactates with blood gases
   - F/u renal recommendations
   # Leukocytosis:Infectious workup unrevealing. Abrupt rise may be
   related to neupogen therapy.
    - Abx as above for ? pneumonia on chest imaging
    - F/u outstanding culture data
   # Congestive heart failure: Volume overloaded on exam (LE edema, JVD,
   audible crackles). Has known elevated PA systolic HTN secondary to
   diastolic dysfunction proven on R heart cath 6/[**2193**]. Most recently may
   simply be [**1-13**] to worsened renal failure. TTE with significant RV
   dysfunction, as above. Cardiac enzymes worsening although EKG this
   morning not significant changed from baseline
   - Guaiac stools and transfuse one pRBC for cardiac disease and Hct<30
   - Cycle cardiac enzymes until they peak and then continue heparin gtt
   48 hours beyond
   - Continue aspirin and will start statin today
   - LFT's generally normal--c/w statin
   - Consider Swan Ganz catheterization for pulmonary hypertension and
   cardiac pressures
   - Fluid managment by CVVH
   # Chronic pruritic rash: Developed in the past half a year per recent
   discharge summary and thought to be due to drug reaction.
    - Clarify with primary team whether Dermatology was consulted
    - Sarna PRN once more alert
   # Diabetes: C/w glargine and SS
    - OG/NG tube, start Glucose / Renal TF
   # Depression.  Unclear level of control.
   - Hold Fluoxetine while NPO
   - Restart in AM via OG
   # Fractured R humerus: Seen by Ortho inpatient.  NWB.
   FEN:  Hypervolemic / Hyperkalemic, Low bicarbonate. Tube feeds, but now
   NPO for SBT
   ACCESS: Left IJ, R subclavian HD line [**2-3**], right radial, PIV x2
   PROPHYLAXIS:  SubQ Hep Famotidine
   CODE: FULL (confirmed with husband, ICU consent signed)
   COMM: With pt and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2195-2-3**] 02:30 PM
   22 Gauge - [**2195-2-3**] 02:30 PM
   Arterial Line - [**2195-2-3**] 02:48 PM
   20 Gauge - [**2195-2-3**] 02:49 PM
   Multi Lumen - [**2195-2-3**] 03:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-02-06 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2195-2-5**] 08:30 AM
   - Extubated
   - Switched from Fent/Versed to Propofol --> comfortable but
   hypertensive SBP190s requiring Lopressor
   - Social work consult ordered for patient/family coping
   - [**Doctor Last Name 11729**] note from last night: Cardiac enzymes are elevated [**1-13**]
   RV strain; pericardial effusion too small to tap; avoid future IVF
   boluses for BP if possible; he welcomes direct pages ([**Numeric Identifier 11730**]) for
   questions during day hours. His hope: Aggressive fluid removal will
   decrease RV size and PA pressure, increase RV fxn.
   - Has HD line in place
   - Renal recs: C/w CVVH x 24 more hours, and continue removing up to 500
   cc/hr if MAP > 60
   - Weight is down 17 kg from [**2-3**]
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfonamides
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   leg pain;
   Ace Inhibitors
   Cough;
   Aspirin
   epistaxis;
   Amlodipine
   peripheral [**Last Name (un) 6946**]
   Cozaar (Oral) (Losartan Potassium)
   hyperkalemia;
   Kayexalate (Oral) (Sodium Polystyrene Sulfonate)
   Shortness of br
   Last dose of Antibiotics:
   Vancomycin - [**2195-2-5**] 09:15 AM
   Levofloxacin - [**2195-2-5**] 12:19 PM
   Metronidazole - [**2195-2-6**] 12:00 AM
   Cefipime - [**2195-2-6**] 06:12 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Hydralazine - [**2195-2-5**] 09:26 AM
   Famotidine (Pepcid) - [**2195-2-5**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2195-2-6**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2195-2-6**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 71 (71 - 108) bpm
   BP: 171/65(99) {146/56(81) - 188/77(115)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 67.5 kg (admission): 84.5 kg
   Height: 68 Inch
    CVP: 11 (5 - 16)mmHg
   Total In:
                                                                  8,200 mL
                                                                  2,404 mL
   PO:
   TF:
   IVF:
                                                                  8,200 mL
                                                                  2,404 mL
   Blood products:
   Total out:
                                                                 17,717 mL
                                                                  4,805 mL
   Urine:
   NG:
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                 -9,517 mL
                                                                 -2,401 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 603 (603 - 603) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.39/38/86.[**Numeric Identifier 253**]/22/-1
   Ve: 11.9 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Split
   S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   296 K/uL
   10.5 g/dL
   177 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.5 mEq/L
   16 mg/dL
   94 mEq/L
   136 mEq/L
   32.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2195-2-5**]  04:04 AM
                             [**2195-2-5**]  08:00 AM
                             [**2195-2-5**]  09:23 AM
                             [**2195-2-5**]  09:41 AM
                             [**2195-2-5**]  03:58 PM
                             [**2195-2-5**]  04:07 PM
                             [**2195-2-5**]  09:30 PM
                             [**2195-2-5**]  09:32 PM
                             [**2195-2-6**]  02:42 AM
                             [**2195-2-6**]  03:21 AM
   WBC
   11.3
   Hct
   32.3
   Plt
   296
   Cr
   1.3
   1.3
   1.4
   1.4
   TCO2
   24
   23
   25
   24
   23
   24
   Glucose
   159
   154
   192
   [**Telephone/Fax (3) 11731**]
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:199/16/0.27, ALT / AST:13/15, Alk Phos / T Bili:182/0.3,
   Differential-Neuts:93.9 %, Lymph:3.2 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.7 g/dL, LDH:210 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Imaging: [**2-3**] CTA Chest: 1. No pulmonary embolism or acute aortic
   pathology. Incidental finding of a bovine aortic arch variant.
   2. Small right pleural effusion with right basilar atelectasis.
   Nonspecific left basilar patchy opacities, could represent atelectasis,
   but infection
   cannot be excluded.
   3. Bilateral enlarged axillary lymph nodes. Could be reactive, but
   given the size and multiplicity, recommend follow-up after resolution
   of the current hypotensive episode.
   4. Small ascites.
   [**2-5**] CXR: The ET tube tip is 4.5 cm above the carina. The NG tube tip
   is in the stomach. The right central venous line is in unchanged
   position with its tip
   projecting at the level of the cavoatrial junction. The left internal
   jugular
   line is at the low SVC. Cardiomediastinal silhouette is stable. The
   evaluation of the lungs has improved in the interim. Small bilateral
   pleural effusion is most likely present.
   [**2-6**] CXR: Patient refused
   Microbiology: [**2-3**] BCx: NGTD
   [**2-3**] BAL: ~1000/ML Commensal Respiratory Flora
   [**2-3**] Nasal swab MRSA screen: POSITIVE
   [**2-4**] C Diff: Negative
   Assessment and Plan
   51yo F with h/o diastolic CHF, chronic renal insufficiency, HTN, DM,
   autonomic and peripheral neuropathy admitted with increasing LE edema,
   shortness of breath and weight gain consistent with acute on chronic
   exacerbation of renal failure and diastolic CHF; with initial diuresis
   to Lasix gtt who then became anuric on [**2-2**]; on [**2-3**] was noted to
   become increasingly obtunded with new onset hypopnea, hypotension and
   worsened metabolic acidosis / uremia prompted transfer to the MICU.
   # Respiratory status: Stable off ventilator x 24 hrs. CXR with possible
   airspace consolidation, but BAL culture with only small amounts
   commensal flora. Not coughing, afebrile, and leukocytosis trending
   downwards. CT chest reported as having bilateral large axillary lymph
   nodes that may require repeat scan after resolution of acute issues.
   - Continue Vanc/Flagyl/Cefepime for 4-day course (completed with
   today's dose)
   - Monitor
   # Altered mental status: Emotionally labile immediately
   post-extubation, now significantly clearer, oriented. Social work
   consult placed for patient/family coping.
   - Monitor MS
   - SW recs
   # Hypertension: Continues to remain hypertensive despite large amounts
   of fluid removal on CVVH. Outpatient anti-hypertensive regimen includes
   hydralazine, labetalol, furosemide. Known significant RV compromise,
   although LV function apparently intact. [**Month (only) 8**] be stopping CVVH and
   transitioning to intermittent HD today.
   - If remains hypertensive despite fluid removal by RRT, consider slowly
   adding back home anti-hypertensives; may not require dose adjustment
   for renal function if going to remain on chronic HD.
   # Congestive heart failure: Volume overload significantly improved,
   given 17 kg fluid removal on CVVH over past 4 days. Possible small
   bilateral pleural effusion on CXR yesterday, but clinically euvolemic
   today. TTE with significant RV dysfunction in setting of known
   pulmonary Htn. Cardiac enzymes elevated, believed to be [**1-13**] RV strain,
   per primary cardiologist
   - Continue aspirin & statin
   - Consider adding back beta blocker when hemodynamics are at goal
   - Fluid management by CVVH vs HD
   # Acute on Chronic Kidney Injury/Metabolic acidosis: Patient has known
   Stage IV CKD, [**1-13**] DM/Htn. Lactate stable.
   - Consider transitioning to intermittent HD today. Has tunneled line in
   place
   - F/u renal recommendations
   # Leukocytosis: Continues to trend down. Infectious workup unrevealing.
   Abrupt rise likely related to neupogen therapy.
    - Complete empiric antibiotic course for PNA today
    - F/u outstanding culture data
   # Chronic pruritic rash: Developed in the past half a year per recent
   discharge summary and thought to be due to drug reaction.
    - Clarify with primary team whether Dermatology was consulted
    - Sarna PRN once more alert
   # Diabetes: C/w glargine and SS
    - OG/NG tube, start Glucose / Renal TF
   # Depression.  Unclear level of control.
   - Restart Fluoxetine
   # Fractured R humerus: Seen by Ortho inpatient.  NWB.
   FEN:  Hypervolemic / Hyperkalemic, Low bicarbonate. Tube feeds, but now
   NPO for SBT
   ACCESS: Left IJ, R subclavian HD line [**2-3**], right radial
   PROPHYLAXIS:  SubQ Hep, Famotidine
   CODE: FULL (confirmed with husband, ICU consent signed)
   COMM: With pt and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2195-2-3**] 02:30 PM
   Arterial Line - [**2195-2-3**] 02:48 PM
   Multi Lumen - [**2195-2-3**] 03:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: